US09079914B2
25-(1) Synthesis of (S)-1-trityloxybut-3-en-2-ol
A solution of n-BuLi in hexane (2.6 M; 182 mL) was added dropwise to a solution of trimethylsulfonium iodide (96.8 g) in THF (800 mL) at −30° C. After stirring at −20° C. for 20 min, (S)-trityl glycidyl ether (50.0 g) was added at the same temperature, and the mixture was stirred at RT for 30 min. Water was added to the reaction solution, followed by extraction with diethyl ether. The organic layer was dried over anhydrous MgSO4. The insoluble matter was separated by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (52.0 g). 1H-NMR (400 MHz, CDCl3) δ (ppm): 3.09-3.13 (m, 1H), 3.20-3.23 (m, 1H), 4.26-4.29 (m, 1H), 5.14-5.32 (m, 2H), 5.76-5.84 (m, 1H), 7.23-7.45 (m, 15H).

reactant | n-BuLi | [Li]CCCC
reactant | trimethylsulfonium iodide | 96.8 g | [I-].C[S+](C)C
reactant | (S)-trityl glycidyl ether | 50.0 g | C([C@@H]1CO1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H20O2
reactant | Water | O | H2O
reactant | hexane | 2.6 M, 182 mL | CCCCCC | C6H14
solvent | THF | 800 mL | C1CCOC1 | C4H8O
product | (S)-1-trityloxybut-3-en-2-ol | 52.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@H](C=C)O | C23H22O2
